US04203988
C. 2-(2-Diisopropylaminoethylamino)-4-methoxypyridine
2-(2-diisopropylaminoethylamino)-4-methoxypyridine-N-oxide (4.3 g., 15 mmole) dissolved in glacial acetic acid (32 ml.) is refluxed with iron powder (8.2 g.) for three hours. The reaction mixture is filtered to remove insoluble salts and then the solvent evaporated. The residue is dissolved in methanol, treated with excess potassium hydroxide pellets and filtered to remove more insoluble salts. The concentrate solution is dissolved in chloroform, washed with water, dried over sodium sulfate, filtered through a pad of charcoal and evaporated to give oily product.

reactant | 2-(2-diisopropylaminoethylamino)-4-methoxypyridine-N-oxide | 15 mmole, 4.3 g | C(C)(C)N(CCNC1=[N+](C=CC(=C1)OC)[O-])C(C)C | C14H25N3O2
solvent | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 8.2 g | [Fe] | Fe
product | 2-(2-Diisopropylaminoethylamino)-4-methoxypyridine | C(C)(C)N(CCNC1=NC=CC(=C1)OC)C(C)C | C14H25N3O
